US07553969B1
(3) Synthesis of 2-((2-tertbutoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,2,4-oxadiazol-5-yl)ethylamide
A solution of Boc-Phe(4-F)-N-Me-Val-Tyr(3-tBu)-NH2 (600 mg, 0.976 mmol) and N,N-dimethylacetamide (0.2 ml, 1.5 mmol) in dioxane (3 ml) was stirred at room temperature for 1 hour and mixed with a solution of sodium hydroxide (108 mg) and hydroxyamine hydrochloride (190 mg) in acetic acid/water (7 ml/3 ml). The mixture was stirred at room temperature for 10 min., mixed with water and filtered; a solution of the thus obtained precipitate in acetic acid/dioxane (10 ml/10 ml) was stirred at 60° C. overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:1), giving the titled compound (474 mg, 76%).

reactant | Boc-Phe(4-F)-N-Me-Val-Tyr(3-tBu)-NH2 | 0.976 mmol, 600 mg | N([C@@H](CC1=CC=C(C=C1)F)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C(=O)OC(C)(C)C | C33H47FN4O6
reactant | N,N-dimethylacetamide | 1.5 mmol, 0.2 ml | CN(C(C)=O)C | C4H9NO
reactant | sodium hydroxide | 108 mg | [OH-].[Na+]
reactant | hydroxyamine hydrochloride | 190 mg | Cl.ON
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid water | 7 ml | C(C)(=O)O.O
solvent | water | O | H2O
product | 2-((2-tertbutoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,2,4-oxadiazol-5-yl)ethylamide | 474 mg, 76% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C1=NC=NO1)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O)=O | C34H46FN5O6
